US05254718
Synthesis of 2-(1-methylethoxy)-2-oxoethyl 2-hydroxy-2-phenylacetate
A 6 mL aliquot of an ethyl ether solution containing 0.25 M 2-chloroethyl 2-hydroxy-2-phenylacetate, 0.25 M isopropyl glycolate, and 1.0% tert-butylbenzene was added to 0.43 g Lipase P30. After mixing for 5 d at room temperature, the conversion of 2-chloroethyl 2-hydroxy-2-phenylacetate to the title compound was estimated (by GC, Method B) to be approximately 15%. The GC peak assigned to the title compound was confirmed by HRMS: calcd for C12H12O5Tms (M--CH3) 309.1158, obsd 309.1171. In identical reactions substituting Lipase G, Lipase AK, Lipase MAP10, Protease M, Lipase AP12, or porcine pancreatic lipase for Lipase P30, the relative values for conversions at 5 d (Lipase P30 =100) were 17, 12, 12, 6, 4, and 2%, respectively.

reactant | 2-chloroethyl 2-hydroxy-2-phenylacetate | 0.25 M | OC(C(=O)OCCCl)C1=CC=CC=C1 | C10H11ClO3
reactant | isopropyl glycolate | 0.25 M | C(CO)(=O)OC(C)C | C5H10O3
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(1-methylethoxy)-2-oxoethyl 2-hydroxy-2-phenylacetate | OC(C(=O)OCC(=O)OC(C)C)C1=CC=CC=C1 | C13H16O5
